US08669266B2
(v) 4-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-quinoline-2-carboxylic acid ethyl ester
To a solution of 2 g of 4-Carboxymethoxy-quinoline-2-carboxylic acid ethyl ester in 20 ml of DMF, 2.8 g of EDC, 2.7 g of pentafluorophenol was added and the reaction mixture was stirred at RT for 2 h. Then, 3.1 g of (S)-Pyrrolidine-2-carboxylic acid cyclobutylamide trifluoroacetate and 1.7 g of NEM in 10 ml of DMF was added. After 16 h the reaction mixture was diluted with water and extracted with DCM (3×150 ml). The combined organic phases were dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was purified by chromatography on silica gel eluting with a gradient of n-heptane/ethyl acetate. The fractions containing the product were combined and the solvent evaporated under reduced pressure. Yield: 1.4 g.

reactant | 4-Carboxymethoxy-quinoline-2-carboxylic acid ethyl ester | 2 g | C(C)OC(=O)C1=NC2=CC=CC=C2C(=C1)OCC(=O)O | C14H13NO5
reactant | EDC | 2.8 g
reactant | pentafluorophenol | 2.7 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | (S)-Pyrrolidine-2-carboxylic acid cyclobutylamide trifluoroacetate | 3.1 g | FC(C(=O)O)(F)F.C1(CCC1)NC(=O)[C@H]1NCCC1
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-quinoline-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC2=CC=CC=C2C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O | C23H27N3O5
